* Demo: DC voltage divider + VCCS
* V1 = 10V, R1+R2 voltage divider, G1 = VCCS buffer

V1  vcc  GND  10
R1  vcc  mid  3k
R2  mid  GND  7k

* VCCS: G1 amplifies V(mid) by Gm=0.002 into out node
G1  out  GND  mid  GND  0.002
R3  out  GND  500

.dc V1 0 30 0.1